US06995263B2
A 1.2 M solution of DIBALH in toluene (34.6 ml, 41.5 mmol) was added dropwise to a dry-ice cooled solution of 4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid methyl ester (4.9 g, 13.8 mmol) in tetrahydrofuran (50 ml). The reaction mixture was stirred for 15 min at −70° C., the dry-ice bath was removed and the reaction temperature was allowed to come to RT. The reaction mixture was stirred for 2 h at RT. Under ice-cooling 6 N aqueous HCl (10 ml) was carefully added. After 4 min ether was added, the layers were separated and the organic layer was washed with water, dried over sodium sulfate and concentrated under reduced pressure to give 4.67 g (14.3 mmol, quant.) of crystalline [4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol.

reactant | DIBALH | CC(C)C[AlH]CC(C)C
reactant | toluene | 41.5 mmol, 34.6 ml | C1(=CC=CC=C1)C | C7H8
reactant | dry-ice | C(=O)=O | CO2
reactant | 4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid methyl ester | 13.8 mmol, 4.9 g | COC(=O)C=1C(=NC(=NC1C)C1=CC=C(C=C1)C(F)(F)F)CCOC | C17H17F3N2O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | [4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol | 14.3 mmol, 4.67 g | COCCC1=NC(=NC(=C1CO)C)C1=CC=C(C=C1)C(F)(F)F | C16H17F3N2O2
